US07718657B2
4-Nitro-2,3-dihydro-1H-inden-1-ol.
To a 0° C. solution of 4-nitro-2,3-dihydro-1H-inden-1-one (149 mgs, 0.84 mmol, 1.0 equiv) in MeOH (2 mL) was added NaBH4 (10 mg, 0.26 mmol, 0.33 equiv) as a solid in one portion. After stirring for 1 h at 0° C., the solvent was removed in vacuo, and water (3 mL) was added to the residue. The aqueous suspension was extracted three times with EtOAc, and the combined organic layers were dried over sodium sulfate. The solution was filtered and concentrated in vacuo. The desired product was used without further purification (135 mg, 90%).

reactant | 4-nitro-2,3-dihydro-1H-inden-1-one | 0.84 mmol, 149 mgs, 1.0 equiv | [N+](=O)([O-])C1=C2CCC(C2=CC=C1)=O | C9H7NO3
reactant | NaBH4 | 0.26 mmol, 10 mg, 0.33 equiv | [BH4-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
product | 4-Nitro-2,3-dihydro-1H-inden-1-ol | [N+](=O)([O-])C1=C2CCC(C2=CC=C1)O | C9H9NO3
